US05236952
7.8 ml of 65 percent nitric acid are added dropwise at 20° within 20 minutes to 29.4 g of 2'-fluoro-4-hydroxy-3-methoxybenzophenone (dissolved in 450 ml of acetic acid). After stirring for 1.5 hours, the reaction mixture is poured into 2 l of ice-water and the precipitate formed is filtered off, washed with water and dissolved in methylene chloride. The methylene chloride solution is washed with water, dried over sodium sulfate and evaporated. The residue is recrystallized from methanol. There is obtained 2'-fluoro-4-hydroxy-3-methoxy-5-nitrobenzophenone of m.p. 127°-129°.

reactant | nitric acid | 7.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2'-fluoro-4-hydroxy-3-methoxybenzophenone | 450 ml | FC1=C(C=CC=C1)C(C1=CC(=C(C=C1)O)OC)=O | C14H11FO3
product | 2'-fluoro-4-hydroxy-3-methoxy-5-nitrobenzophenone | FC1=C(C=CC=C1)C(C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)=O | C14H10FNO5
